US09447033B2
iii) 3-[(4-Chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid
A solution of 3-[(4-chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid tert-butyl ester (1.33 g, 0.02 mol) in a mixture of trifluoroacetic acid/dichloromethane (20 ml, 1:1 v/v) was stirred for 3 hrs. The reaction mixture was concentrated to dryness in vacuo to afford the title compound as a white solid (1.37 g). HPLC retention time 2.75 Mass spectrum (ES+) m/z 405.9 (M+).

reactant | 3-[(4-chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid tert-butyl ester | 0.02 mol, 1.33 g | C(C)(C)(C)OC(C1=CC(=CC=C1)N(S(=O)(=O)C1=NN(C=C1)C)CC1=CC=C(C=C1)Cl)=O | C22H24ClN3O4S
solvent | trifluoroacetic acid dichloromethane | 20 ml | FC(C(=O)O)(F)F.ClCCl
product | 3-[(4-Chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid | 1.37 g | ClC1=CC=C(CN(C=2C=C(C(=O)O)C=CC2)S(=O)(=O)C2=NN(C=C2)C)C=C1 | C18H16ClN3O4S
